US04499094
Operations are carried out as for Example 7, starting from 2.9 g of 7-(2-chloro phenyl) thieno[2,3-c]pyridine 5-carboxylic acid, 1.17 g of triethylamine, 1.25 g of ethyl chloroformate and 0.94 g of diethylamine in 100 ml of chloroform. 1.4 g of N,N-diethyl 7-(2-chloro phenyl) thieno[2,3-c]pyridine 5-carboxamide, melting at 86° C., is obtained.

reactant | 7-(2-chloro phenyl) thieno[2,3-c]pyridine 5-carboxylic acid | 2.9 g | ClC1=C(C=CC=C1)C=1N=C(C=C2C1SC=C2)C(=O)O | C14H8ClNO2S
reactant | triethylamine | 1.17 g | C(C)N(CC)CC | C6H15N
reactant | ethyl chloroformate | 1.25 g | ClC(=O)OCC | C3H5ClO2
reactant | diethylamine | 0.94 g | C(C)NCC | C4H11N
solvent | chloroform | 100 ml | C(Cl)(Cl)Cl | CHCl3
product | N,N-diethyl 7-(2-chloro phenyl) thieno[2,3-c]pyridine 5-carboxamide | 1.4 g | C(C)N(C(=O)C=1C=C2C(=C(N1)C1=C(C=CC=C1)Cl)SC=C2)CC | C18H17ClN2OS
